US05859062
N,N'-bis(3,5-diacetylphenyl)(isophthalic acid diamide), mp 283°-4° C. Also analogously, N,N'-bis(3-acetylphenyl)pentanediamide, mp 174°-5° C. was prepared from 3-aminoacetophenone and glutaryl dichloride.

reactant | 3-aminoacetophenone | CC(=O)C1=CC(=CC=C1)N | C8H9NO
reactant | glutaryl dichloride | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
product | N,N'-bis(3-acetylphenyl)pentanediamide | C(C)(=O)C=1C=C(C=CC1)NC(CCCC(=O)NC1=CC(=CC=C1)C(C)=O)=O | C21H22N2O4
